US07141583B2
(5S)-3-(4-(3,6-Dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-(3-methyl-2-oxo-2,3-dihydroimidazol-1-ylmethyl)oxazolidin-2-one
A solution of 1-methylimidazolidin-2-one (80 mg, 0.82 mM, Heterocycles, 1987, 26, 3153) in dimethylsulfoxide (1 ml) was treated with sodium hydride (55% in oil, 40 mg, 0.92 mM) at ambient temperature under nitrogen. After stirring for 20 minutes, (5R)-3-(4-(3,6-dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one (300 mg, 0.81 mM; WO 97-09328) in dimethylsulfoxide (1.5 ml) was added and stirring continued for 1.5 hours. The temperature was then progressively raised to 85°, and heated at this temperature for 24 hours. After cooling and dilution with water (50 ml), the mixture was extracted with ethyl acetate (3×30 ml), and combined extracts washed with brine (20 ml). After drying (magnesium sulfate) and evaporation, the residue was purified by chromatography on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 6% methanol in dichloromethane. Relevant fractions were combined to give the title product (60 mg).

reactant | 1-methylimidazolidin-2-one | 0.82 mM, 80 mg | CN1C(NCC1)=O | C4H8N2O
reactant | sodium hydride | 0.92 mM, 40 mg | [H-].[Na+]
reactant | (5R)-3-(4-(3,6-dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one | 0.81 mM, 300 mg | O1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F | C16H18FNO6S
reactant | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | (5S)-3-(4-(3,6-Dihydro-2H-pyran-4-yl)-3-fluorophenyl)-5-(3-methyl-2-oxo-2,3-dihydroimidazol-1-ylmethyl)oxazolidin-2-one | 60 mg | O1CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1C(N(C=C1)C)=O)=O)F | C19H20FN3O4
